US05874427
N-[acetyl]-5-amino-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.10 gm (0.39 mMol) 5-amino-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)pyrrolo[3,2-b]pyridine and 0.35 μL (0.47 mMol) acetyl chloride, 0.084 gm (73%) of the title compound were recovered by the procedure of Example 19.

reactant | 5-amino-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)pyrrolo[3,2-b]pyridine | 0.39 mMol, 0.10 gm | NC1=CC=C2C(=N1)C(=CN2)C2=CCN1CCCC1C2 | C15H18N4
reactant | acetyl chloride | 0.47 mMol, 0.35 μL | C(C)(=O)Cl | C2H3ClO
product | N-[acetyl]-5-amino-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)pyrrolo[3,2-b]pyridine | 0.084 gm, 73% | C(C)(=O)N1C=C(C2=NC(=CC=C21)N)C2=CCN1CCCC1C2 | C17H20N4O
